US03970532
A stirred solution of 23 g. (0.2 mol) of cyclohexylphoshine, 17 g. (0.2 mol) of vinyl acetate and 0.1 g. of azobis-isobutyronitrile in 100 ml. of benzene is prepared and irradiated with ultraviolet light as in Example 1. The temperature is maintained at 25°-30°C. The course of the reaction is followed by observation of the disappearance of the infrared absorption for the vinyl group at 1650 cm.-1After three hours this absorption has disappeared completely and the P-H absorption has shifted from 2450 to 2425 cm.-1 indicating conversion of the primary ##EQU7## absorption to the secondary >P--H. Thus: ##EQU8## To this secondary phosphine intermediate product there is added 18 g. (0.21 mol) of methyl acrylate plus an additional 0.1 g. of azo-bis-isobutyronitrile and irradiation continued under the above conditions for another two hours at which point a scan of the infrared absorption spectrum of the reaction mixture shows the disappearance of the P-H absorption. Removal of the benzene by distillation leaves behind the cyclohexyl-2-acetoxyethyl-2-carbomethoxy ethylphosphine as a colorless, viscous oil.

reactant | cyclohexylphoshine | 0.2 mol | C1(CCCCC1)P | C6H13P
reactant | vinyl acetate | 0.2 mol | C(C)(=O)OC=C | C4H6O2
reactant | azobis-isobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | methyl acrylate | 0.21 mol | C(C=C)(=O)OC | C4H6O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | cyclohexyl-2-acetoxyethyl-2-carbomethoxy ethylphosphine | C1(CCCCC1)P(CCC(=O)OC)CCOC(C)=O | C14H25O4P
